.title KiCad schematic
.include "C:/Users/torbe/Documents/2.0 Studium/6.0 Semester/M6.10 Analoge Schaltungen (ANS)/ANS-VCO-Projekt-2026/kicad/Testprojekt/spicelibs/elk.lib"
* LTspice kompatible Befehle
.param L_var=5u
.param R_var=20k
.param C_var=100p
*.step param C_var 60p 110p 10p
.tran 10n 100u startup

* Bauteile
R_dummy /CS 0 1G
R1 /Drain_Q2 /Drain_Q1 {R_var}
I1 /CS 0 DC 1m
XQ2 /Drain_Q2 /Drain_Q1 /CS BS170/PLP
XQ1 /Drain_Q1 /Drain_Q2 /CS BS170/PLP
V1 VDD 0 DC 5
C2 /Drain_Q2 /Drain_Q1 {C_var}
L1 /Drain_Q2 VDD {L_var}
L2 VDD /Drain_Q1 {L_var}
.end
